US05696117
3,4-Dihydro-2-(2-hydroxyethyl)-3-oxo-4-pentyl-2H-1,4-benzoxazine
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine by Methods F and G, alkylating with 1-chloropentane in 32% yield and isolated as a colorless oil; IR (KBr) 3424, 2956, 2932, 1680, 1500, 1272, 1062, 749 cm-1 ; 1H NMR (CDCl3) δ0.91 (t, J=6.8 Hz, 3H), 1.31-1.38 (m, 4H), 1.66 (br t, J=5.5 Hz, 2H), 2.08-2.29 (m, 2H), 2.59 (br s, 1H), 3.87-3.94 (m, 2H), 4.69 (dd, J=7.3, 5.8 Hz, 1H), 6.92-7.08 (m, 4H); Anal. Calc'd for C15H21NO3 : C, 68.42; H, 8.04; N, 5.32. Found: C, 68.10; H, 7.88; N, 5.32.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC=C2 | C16H25NO3Si
reactant | 1-chloropentane | ClCCCCC | C5H11Cl
reactant | KBr | [K+].[Br-]
product | 3,4-Dihydro-2-(2-hydroxyethyl)-3-oxo-4-pentyl-2H-1,4-benzoxazine | 32% yield | OCCC1OC2=C(N(C1=O)CCCCC)C=CC=C2 | C15H21NO3
